US08252935B2
b) 4-Methyl-2-[5-(1-naphthalen-2-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid
To compound 46a, 4-Methyl-2-[5-(1-naphthalen-2-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester (48.4 mg, 0.082mmol) in EtOH (4.1 ml) was added 2M KOH (0.41 ml, 0.82 mmol). The reaction was heated to 78° C. for 1.5 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (27 mg, 56%). 1HNMR (300 MHz, MeOD) δ ppm 0.88-0.96 (m, 7 H) 1.41-1.52 (m, J=6.59, 6.59, 6.59, 6.59 Hz, 1 H) 1.61-1.70 (m, J=7.06, 6.74, 6.74, 2.45 Hz, 1 H) 1.89-2.02 (m, 3 H) 2.04-2.14 (m, 2 H) 3.08-3.05 (m, 3 H) 3.52-3.67 (m, 2 H) 3.75 (t, J=7.91 Hz, 1 H) 4.47-4.61 (m, 2 H) 7.32 (s, 1 H) 7.49-7.64 (m, 5 H) 7.77 (q, J=8.29 Hz, 4 H) 7.91-8.02 (m, 3 H) 8.07 (s, 1 H), Calcd for C32H32F7NO2 (M+H) 559.66, Found 560.4.

reactant | 4-Methyl-2-[5-(1-naphthalen-2-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester | 0.082mmol, 48.4 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C37H40F3NO2
reactant | KOH | 0.82 mmol, 2M, 0.41 ml | [OH-].[K+]
solvent | EtOH | 4.1 ml | CCO | C2H6O
product | 4-Methyl-2-[5-(1-naphthalen-2-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C35H36F3NO2
